US04921930
Into a two-liter flask equipped with an agitator, means for steam distillation, and a Claisen head with an efficient condenser was placed 664 g (2 moles) of 2-phenyl-5,5- bis(acryloyloxymethyl)-1,3-dioxane, two grams of 4-methoxyphenol and a hot solution of 8 grams of oxalic acid and 1.6 grams of potassium carbonate in 200 ml water. A slow stream of air was introduced into the steam inlet and the mixture stirred and warmed very slightly until the mixture appeared to be a homogeneous emulsion. Steam was then added to the air stream whereon benzaldehyde began to steam distill. It is desirable during the steam distillation that rapid stirring be maintained to provide intimate contact between the organic and aqueous layers in order to decrease the time required for hydrolysis as much as possible. After benzyaldehyde was no longer distilling, the still residue was cooled, saturated with sodium sulfate, filtered and extracted with ethyl acetate. The combined extracts were dried, preferably, by azeotropic distillation of water and ethyl acetate under reduced pressure. The 2,2-bis(acryloyloxymethyl)-1,3-propanediol obtained was a viscous, hydroscopic liquid. NMR spectroscopy confirmed the fact that no monol or triol was present in the product.

reactant | 2-phenyl-5,5- bis(acryloyloxymethyl)-1,3-dioxane | 2 moles, 664 g | C1(=CC=CC=C1)C1OCC(CO1)(COC(C=C)=O)COC(C=C)=O | C18H20O6
reactant | 4-methoxyphenol | two grams | COC1=CC=C(C=C1)O | C7H8O2
reactant | oxalic acid | 8 grams | C(C(=O)O)(=O)O | C2H2O4
reactant | potassium carbonate | 1.6 grams | C([O-])([O-])=O.[K+].[K+]
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
solvent | water | 200 ml | O | H2O
product | 2,2-bis(acryloyloxymethyl)-1,3-propanediol | C(C=C)(=O)OCC(CO)(CO)COC(C=C)=O | C11H16O6
